US06686347B2
4c) Phthalazin-1(2H)-one-4-carbaldehyde
Under N2 atmosphere, 50 g (284 mmol) 4-hydroxymethylphthalazin-1(2H)-one is dissolved in 900 ml DMSO and 119 ml (851 mmol) triethylamine. A solution of 90.3 g (567 mmol) sulfur trioxide pyridine complex in 733 ml DMSO is added and the mixture stirred for about 2 h. After the reaction is completed (TLC control), the mixture is poured onto a mixture of 2 l 5% Na2CO3 solution with 2 kg ice and 5 l EtOAc and then stirred. The aqueous phase of the resulting suspension is separated off and twice extracted with 2 l EtOAc. The first organic phase comprises crystalline product, this is filtered off and washed with water and EtOAc. The organic phase is separated off from the filtrate and, together with the second and third organic phase, washed with water and brine, dried (Na2SO4) and evaporated. The evaporation residue is combined with the above crystalline product, stirred in EtOAc, and hexane added before being filtered. This yields the title compound; m.p. 262-265° C.; 1H-NMR (DMSO-d6) 9.82 (s, HCO), 8.88 (d, 1H), 8.27 (d, 1H), 7.95 (m, 2H); FAB-MS (M+H)+=175, (M+H+MeOH)+=207.

reactant | 4-hydroxymethylphthalazin-1(2H)-one | 284 mmol, 50 g | OCC1=NNC(C2=CC=CC=C12)=O | C9H8N2O2
reactant | triethylamine | 851 mmol, 119 ml | C(C)N(CC)CC | C6H15N
reactant | Na2CO3 | 2 l | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOAc | 5 l | CCOC(=O)C | C4H8O2
solvent | DMSO | 900 ml | CS(=O)C | C2H6OS
solvent | DMSO | 733 ml | CS(=O)C | C2H6OS
product | Phthalazin-1(2H)-one-4-carbaldehyde | C1(NN=C(C2=CC=CC=C12)C=O)=O | C9H6N2O2
